US08071586B2
To a solution of (S)-4-(4-hydroxy-butyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester (1.67 g, 5.21 mmol) in dichloromethane (18 mL) were added at room temperature trichloroisocyanuric acid (1.28 g, 5.21 mmol) and 2,2,6,6-tetramethylpiperidin-1-oxyl (8 mg, 0.05 mmol), upon which an exothermic reaction (Tmax=36° C.) under gas evolution started. The reaction mixture was stirred for 5 min, then insoluble material was removed by filtration. The filtrate was washed with 1 M aq. sodium thiosulfate solution and brine, dried (MgSO4), filtered, and evaporated to afford (S)-4-(4-oxo-butyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester (1.56 g). This aldehyde (MS (ISP)=319.1 (M+H)+) was taken up in dichloromethane (9 mL) and added at room temperature to a suspension of (S)-6-aza-spiro[2.5]octan-4-ol hydrochloride (intermediate 2; 853 mg, 5.21 mmol), triethylamine (527 mg, 5.21 mmol), acetic acid (626 mg, 10.4 mmol), and sodium triacetoxyborohydride (1.21 g, 5.73 mmol) in dichloromethane (9 mL). The reaction mixture was stirred for 30 min, then cooled to 0° C. and treated with 25% aq. ammonia solution (1.07 mL), then allowed to reach room temperature and concentrated in vacuo. Chromatography (SiO2; dichloromethane→dichloromethane/methanol/25% aq. ammonia solution 90:10:0.25) afforded the title compound (1.26 g, 56%). Colorless gum, MS (ISP)=430.3 (M+H)+.

reactant | (S)-4-(4-hydroxy-butyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | 5.21 mmol, 1.67 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)CCCCO)=O)C | C17H24N2O4
reactant | trichloroisocyanuric acid | 5.21 mmol, 1.28 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
catalyst | 2,2,6,6-tetramethylpiperidin-1-oxyl | 0.05 mmol, 8 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | (S)-4-(4-oxo-butyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | 1.56 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)CCCC=O)=O)C | C17H22N2O4
